* Generated by electronics_design from a KiCad schematic
* KICAD_SINGLETON_LABEL outbuf1
.include "40106all.lib"
XU1 cc1 out1 out1 outbuf1 0 NC_U1_0_6 0 NC_U1_0_8 0 NC_U1_0_10 0 NC_U1_0_12 0 vdd 40106all
C1 cc1 0 100n
R1 out1 cc1 10k
V1 vdd 0 5
.options noinit
.tran 1
.backanno
.end
